US04291036
0.01 moles of 2,6-dimethyl-3-ethyl-4-oxo-4H-pyrido(1,2-a)pyrimidine are dissolved in 20 ml. of acetone, 0.03 moles of methyl iodide are added and the mixture is kept in a bomb tube at 150° C. for 24 hours. The solution is evaporated to dryness, the residue is dissolved in 15 ml. of methanol and a solution of 0.05 moles of sodium tetrahydroborate(III) in 10 ml. of water is added. After 4 hours the methanol is distilled off and the aqueous phase is extracted with three 20-ml. portions of chloroform. The organic phase is dried, evaporated and added to the oily substance obtained are 10 ml. of ethanol saturated with hydrochloric acid. 1,2,6-trimethyl-3-ethyl-1,2,3,6,7,8,9,9a-octahydro-4-oxo-4H-pyrido(1,2-a)pyrimidine hydrochloride is obtained, while crystallizes when triturated with ether. The product obtained after recrystallization from a mixture of acetone and ether sublimates over 206° C. Yield: 41%.

reactant | 2,6-dimethyl-3-ethyl-4-oxo-4H-pyrido(1,2-a)pyrimidine | 0.01 moles | CC=1N=C2N(C(C1CC)=O)C(=CC=C2)C | C12H14N2O
reactant | acetone | CC(=O)C | C3H6O
reactant | methyl iodide | 0.03 moles | CI | CH3I
reactant | hydrochloric acid | Cl | ClH
solvent | ethanol | C(C)O | C2H6O
solvent | water | O | H2O
product | 1,2,6-trimethyl-3-ethyl-1,2,3,6,7,8,9,9a-octahydro-4-oxo-4H-pyrido(1,2-a)pyrimidine hydrochloride | Yield: 41% | Cl.CN1C2N(C(C(C1C)CC)=O)C(CCC2)C | InChI=1S/C13H24N2O.ClH/c1-5-11-10(3)14(4)12-8-6-7-9(2)15(12)13(11)16;/h9-12H,5-8H2,1-4H3;1H
